US06586592B2
Step 4: Preparation of Tert-Butyl 4-[4-[(3-fluorophenyl)sulfonyl]-3-nitrophenyl]-1,4-diazepane-1-carboxylate
To a mixture of 4-(1,4-diazepan-1-yl)-2-nitrophenyl 3-fluorophenyl sulfone (49.1 g, 129 mmol) and sodium hydroxide (11.4 g, 286 mmol) in 650 ml of a 1:1 THF:H2O solvent is slowly added a mixture of di-tert-butyl dicarbonate (32.4 g, 148 mmol) in 5 ml of THF. The solution is stirred at rt for 16 h. The mixture is neutralized with 6 N HCl and 200 mL of CH2Cl2 is added. The layers are separated and the aqueous layer extracted with CH2Cl2 (3×100 mL). The combined organics are dried over MgSO4, filtered, and concentrated to give an orange solid. The crude product is triturated with EtOAc and hexane to give 60.35 g (99%) of the title compound as a bright yellow solid.

reactant | 4-(1,4-diazepan-1-yl)-2-nitrophenyl 3-fluorophenyl sulfone | 129 mmol, 49.1 g | FC=1C=C(C=CC1)S(=O)(=O)C1=C(C=C(C=C1)N1CCNCCC1)[N+](=O)[O-] | C17H18FN3O4S
reactant | sodium hydroxide | 286 mmol, 11.4 g | [OH-].[Na+]
reactant | di-tert-butyl dicarbonate | 148 mmol, 32.4 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | HCl | 6 N | Cl | ClH
solvent | THF | 650 ml | C1CCOC1 | C4H8O
solvent | H2O | O | H2O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | Tert-Butyl 4-[4-[(3-fluorophenyl)sulfonyl]-3-nitrophenyl]-1,4-diazepane-1-carboxylate | 60.35 g, 99% | FC=1C=C(C=CC1)S(=O)(=O)C1=C(C=C(C=C1)N1CCN(CCC1)C(=O)OC(C)(C)C)[N+](=O)[O-] | C22H26FN3O6S
